US07863271B2
To an ice-cold solution of cis-2,6-dimethylpiperazine (1.50 g, 13.13 mmol), di-tert-butyldicarbonate (3.15 g, 14.45 mmol) and 4-dimethylaminopyridine (1.60 g, 13.13 mmol) in CH2Cl2 (20 mL) was added diisopropylethylamine (2.17 mL, 13.13 mmol). The mixture was stirred for 10 min then allowed to warm to room temperature for 4 h. The reaction was quenched with saturated NaHCO3. The aqueous phase was further extracted with Et2O (2×20 mL). The combined organic phase was washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel, 0 to 10% CH3OH in CH2Cl2) to afford (3S*,5R*)-tert-butyl 3,5-dimethylpiperazine-1-carboxylate (2.18 g, 77%) as a clear oil. 1H NMR and MS consistent.

reactant | cis-2,6-dimethylpiperazine | 13.13 mmol, 1.50 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | di-tert-butyldicarbonate | 14.45 mmol, 3.15 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 13.13 mmol, 2.17 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | 4-dimethylaminopyridine | 13.13 mmol, 1.60 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (3S*,5R*)-tert-butyl 3,5-dimethylpiperazine-1-carboxylate | 2.18 g, 77% | C[C@H]1CN(C[C@H](N1)C)C(=O)OC(C)(C)C | C11H22N2O2
